US08557805B2
Ethyl (2E)-2-{[4-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)phenyl]hydrazono}propanoate
4-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)aniline (7.84 g) was dissolved in 2N hydrochloric acid (20 mL) and acetonitrile (15 mL), and aqueous solution (20 mL) of sodium nitrite (1.73 g) was added dropwise under ice-cooling. After the completion of the dropwise addition, the reaction mixture was stirred under ice-cooling for 30 min. The reaction mixture was added dropwise to a solution of ethyl 2-methylacetoacetate (3.17 g) and potassium hydroxide (3.3 g) in water (70 mL) and ethanol (70 mL) at −20° C. After stirring at −20° C. for 30 min, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=0:100 to 85:15, volume ratio) to give the title compound (6.0 g, yield 59%) as a yellow oil.

reactant | 4-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 7.84 g | COCCOCC1=CC=C(C=N1)OC1=CC(=C(N)C=C1)OC1CCOCC1 | C20H26N2O5
reactant | sodium nitrite | 20 mL, 1.73 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | 3.17 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | potassium hydroxide | 3.3 g | [OH-].[K+]
solvent | hydrochloric acid | 2N, 20 mL | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 70 mL | O | H2O
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (2E)-2-{[4-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)phenyl]hydrazono}propanoate | 6.0 g, yield 59% | COCCOCC1=CC=C(C=N1)OC1=CC(=C(C=C1)N\N=C(\C(=O)OCC)/C)OC1CCOCC1 | C25H33N3O7
